US09102654B2
Step 1. N-(3-Chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-N-ethylacetamide (1c′)
To a 3-neck, 100-mL round bottom flask was charged N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)acetamide (5.00 g, 21.1 mmol) and tetrahydrofuran (50 mL). Sodium tert-butoxide (3.05 g, 31.7 mmol) was added (causing a temperature rise from 22° C. to 27.9° C.), followed by bromoethane (4.70 mL, 63.4 mmol). The reaction was stirred at 35° C. for 168 hours, at which point HPLC analysis indicated that only 2.9% (area under the curve, AUC) starting material remained. The reaction mixture was concentrated to give a brown residue, which was diluted with ethyl acetate (50 mL) and water (50 mL). The aqueous layer was extracted with ethyl acetate (4×50 mL) and the combined organics were concentrated to give a brown residue. The residue was dissolved in dichloromethane (2×10 mL) and purified by flash column chromatography using 60-100% ethyl acetate/hexanes as eluent. The fractions containing pure product were combined and concentrated to afford the title product as a yellow solid (4.20 g, 74%): 1H NMR (400 MHz, CDCl3) δ 8.98 (d, J=2.7, 0.8 Hz, 1H), 8.62 (dd, J=4.8, 1.4 Hz, 1H), 8.06 (ddd, J=8.3, 2.7, 1.4 Hz, 1H), 8.00 (s, 1H), 7.47 (dd, J=8.3, 4.7 Hz, 1H), 3.71 (q, J=7.1 Hz, 2H), 1.97 (s, 3H), 1.16 (t, J=7.2 Hz, 3H); 13C NMR (101 MHz, CDCl3) δ 170.69, 148.56, 140.89, 139.95, 135.64, 126.22, 126.08, 124.86, 124.09, 43.77, 22.27, 13.15; mp: 87-91° C.; ESIMS m/z 265 ([M+H]+).

reactant | N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)acetamide | 21.1 mmol, 5.00 g | ClC1=NN(C=C1NC(C)=O)C=1C=NC=CC1 | C10H9ClN4O
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
reactant | Sodium tert-butoxide | 31.7 mmol, 3.05 g | CC(C)([O-])C.[Na+]
reactant | bromoethane | 63.4 mmol, 4.70 mL | BrCC | C2H5Br
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-(3-Chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-N-ethylacetamide | 4.20 g, 74% | ClC1=NN(C=C1N(C(C)=O)CC)C=1C=NC=CC1 | C12H13ClN4O
